US06511978B1
Preparation of 1-(3-benzyloxypropyl)-5-hydroxy methyl-1H-imidazole
The title compound was prepared by modifying the method described in the literature (see: J. Med. Chem., 33, 1312-1329, 1990) from dihydroxyacetone dimer and the compound prepared in Preparation 5-2). 4.95 g(30 mmol) of 3-benzyloxypropylamine, 2.97 g(16.5 mmol) of dihydroxyacetone dimer and 3.20 g(33 mmol) of potassium thiocyanide were added to 30 ml of isopropyl alcohol, 6 ml of acetic acid was added thereto, and the resulting mixture was reacted for 48 hours at room temperature. After the reaction, solvent was removed, 100 ml of ethylacetate was added, and the mixture was washed twice with 100 ml of water. The solvent was removed under reduced pressure, 30 ml of 30% nitric acid and 6.9 mg(0.1 mmol) of NaNO2 were added to the residue and stirred for 2 hours. To the reaction mixture was added 20 ml of ethylacetate. The organic layer was removed and 100 ml of ethylacetate was added to the aqueous layer. After the mixture was basified to pH12 using 6N aqueous sodium hydroxide solution, the organic layer was separated and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure and the residue was concentrated. The concentrate was subjected to column chromatography(eluent: dichloromethane/methanol=93/7, v/v) to give 2.5 g(Yield 38%) of the title compound.

reactant | dihydroxyacetone dimer | C1C(OCC(O1)(CO)O)(CO)O | C6H12O6
reactant | 3-benzyloxypropylamine | 30 mmol, 4.95 g | C(C1=CC=CC=C1)OCCCN | C10H15NO
reactant | dihydroxyacetone dimer | 16.5 mmol, 2.97 g | C1C(OCC(O1)(CO)O)(CO)O | C6H12O6
reactant | potassium thiocyanide | 33 mmol, 3.20 g | S(C#N)C#N.[K]
reactant | nitric acid | 30 ml | [N+](=O)(O)[O-] | HNO3
catalyst | NaNO2 | 0.1 mmol, 6.9 mg | N(=O)[O-].[Na+]
solvent | dichloromethane methanol | ClCCl.CO
solvent | ethylacetate | 20 ml | C(C)OC(C)=O | C4H8O2
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
solvent | isopropyl alcohol | 30 ml | C(C)(C)O | C3H8O
product | 1-(3-benzyloxypropyl)-5-hydroxy methyl-1H-imidazole | 2.5 g, Yield 38% | C(C1=CC=CC=C1)OCCCN1C=NC=C1CO | C14H18N2O2
